US08895547B2
2-(4-tert-Butylphenyl)-3-hydroxy-3-methylbutane-2-sulfonamide
The further conversion to (S)-3-[5-(4-tert-butylphenyl)-5,6,6-trimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-ylamino]-3-(2-fluorophenyl)propan-1-ol was effected via the 5-(4-tert-butylphenyl)-2-methoxy-5,6,6-trimethyl-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide intermediate in analogy to the preparation of (S)-3-[5-(3-bromophenyl)-5,6,6-trimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-ylamino]-3-phenylpropan-1-ol.

reactant | (S)-3-[5-(4-tert-butylphenyl)-5,6,6-trimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-ylamino]-3-(2-fluorophenyl)propan-1-ol | C(C)(C)(C)C1=CC=C(C=C1)C1(S(N=C(OC1(C)C)N[C@@H](CCO)C1=C(C=CC=C1)F)(=O)=O)C | C25H33FN2O4S
reactant | 5-(4-tert-butylphenyl)-2-methoxy-5,6,6-trimethyl-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide | C(C)(C)(C)C1=CC=C(C=C1)C1(S(N=C(OC1(C)C)OC)(=O)=O)C | C17H25NO4S
reactant | (S)-3-[5-(3-bromophenyl)-5,6,6-trimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-ylamino]-3-phenylpropan-1-ol | BrC=1C=C(C=CC1)C1(S(N=C(OC1(C)C)N[C@@H](CCO)C1=CC=CC=C1)(=O)=O)C | C21H25BrN2O4S
product | 2-(4-tert-Butylphenyl)-3-hydroxy-3-methylbutane-2-sulfonamide | C(C)(C)(C)C1=CC=C(C=C1)C(C)(C(C)(C)O)S(=O)(=O)N | C15H25NO3S
